US07407969B2
A mixture of ethyl 4-(1H-benzimidazol-2-ylamino)-1-piperidine-carboxylate (0.0289 mol), 7-chloro-6,7-dihydro-5H-cyclopenta[b]pyridine (0.0289 mol) and potassium carbonate (0.0867 mol) in acetonitrile (250 ml) was stirred and refluxed for 48 hours and then brought to room temperature. The reaction was carried out again using the same quantities. The mixtures were combined, poured out into H2O and extracted with EtOAc. The organic layer was separated, washed with H2O, dried (MgSO4), filtered and the solvent was evaporated. The residue (25 g) was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH NH4OH 97/3/0.5; 20-45 μm). Two fractions were collected and their solvents were evaporated, yielding 8 g of ethyl 4-[[1-(6,7-dihydro-5H-1-pyrindin-7-yl) 1H-benzimidazol-2-yl]amino]-1-piperidinecarboxylate (interm. 22).

reactant | ethyl 4-(1H-benzimidazol-2-ylamino)-1-piperidine-carboxylate | 0.0289 mol | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C15H20N4O2
reactant | 7-chloro-6,7-dihydro-5H-cyclopenta[b]pyridine | 0.0289 mol | ClC1CCC=2C1=NC=CC2 | C8H8ClN
reactant | potassium carbonate | 0.0867 mol | C([O-])([O-])=O.[K+].[K+]
reactant | H2O | O | H2O
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | ethyl 4-[[1-(6,7-dihydro-5H-1-pyrindin-7-yl) 1H-benzimidazol-2-yl]amino]-1-piperidinecarboxylate | 8 g | N1=CC=CC=2CCC(C12)N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C23H27N5O2
